US06562989B2
4-(4-chlorophenyl)benzaldehyde (Table 10, Entry 8)
4-Bromobenzaldehyde (95 mg, 0.51 mmol) reacted with 4-chlorophenylboronic acid (101 mg, 0.65 mmol) using 0.5/1.0 mol % of Pd(dba)2/Ph5FcP(t-Bu)2 and KF (87 mg, 1.55 mmol) in THF solvent at room temperature to give the title compound (110 mg, 99%) as a white solid: 1H-NMR (400 MHz, CDCl3): δ 10.07 (s, 1H, —CHO), 7.96 (d, 2H, J=7.04 Hz), 7.73 (d, 2H, J=7.04 Hz), 7.58 (d, 2H, J=7.16 Hz), 7.46 (d, 2H, J=7.27 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 191.80, 145.84, 138.10, 135.35, 134.70, 130.34, 129.20, 128.58, 127.51. GC/MS(EI): m/z 216 (M+), 218, 152.

reactant | 4-Bromobenzaldehyde | 0.51 mmol, 95 mg | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 4-chlorophenylboronic acid | 0.65 mmol, 101 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | KF | 1.55 mmol, 87 mg | [F-].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-(4-chlorophenyl)benzaldehyde | 110 mg, 99% | ClC1=CC=C(C=C1)C1=CC=C(C=O)C=C1 | C13H9ClO
